US08053440B2
To a solution of 2-amino-4,6-dimethoxy-benzamide (150 mg, 0.76 mmol) and 4-morpholin-4-ylmethyl benzaldehyde (156 mg, 0.76 mmol) in N,N-dimethyl acetamide (10 mL), NaHSO3 (150 mg, 0.84 mmol) and p-TSA (174 mg, 0.91 mmol) were added and the reaction mixture was heated at 150° C. for 5 h. The reaction mixture was cooled to room temperature, water was added and the mixture was neutralized with NaHCO3. The solvent was removed under reduced pressure to give the crude product, which was purified by column chromatography to give 5,7-dimethoxy-2-(4-(morpholinomethyl)phenyl)quinazolin-4(3H)-one, which was converted to the hydrochloride salt (165 mg, 51%). Selected data: MS (ES) m/z: 382.07; MP 206-208° C. (at decomposition).

reactant | 2-amino-4,6-dimethoxy-benzamide | 0.76 mmol, 150 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-morpholin-4-ylmethyl benzaldehyde | 0.76 mmol, 156 mg | N1(CCOCC1)CC1=CC=C(C=O)C=C1 | C12H15NO2
reactant | NaHSO3 | 0.84 mmol, 150 mg | OS(=O)[O-].[Na+]
reactant | p-TSA | 0.91 mmol, 174 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 5,7-dimethoxy-2-(4-(morpholinomethyl)phenyl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)CN1CCOCC1)=O | C21H23N3O4
